US07982036B2
To a stirred solution of N-methoxy-N-methyl-3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzamide (0.75 g, 1.7 mmol) in THF (10 mL) was added LAH (3.4 mL, 3.4 mmol, 1 M solution in THF) at −60° C. The reaction mixture was stirred at −60° C. for 1 h, was quenched with Na2SO4 solution (2 mL) and was extracted with ethyl acetate (10 mL). The organic layer was separated and washed with water (2 mL) and with brine solution (2 mL) and was dried over anhydrous Na2SO4. Filtration followed by concentration under reduced pressure gave a residue that was purified by column chromatography (SiO2, 60-120, chloroform/methanol, 9/1) to give 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzaldehyde (0.6 g, 92%) as an off yellow solid.

reactant | N-methoxy-N-methyl-3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzamide | 1.7 mmol, 0.75 g | CON(C(C1=CC(=CC=C1)NC1=NC=NC(=C1)NC1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C25H23N5O3
reactant | LAH | 3.4 mmol, 1 M, 3.4 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzaldehyde | 0.6 g, 92% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC=1C=C(C=O)C=CC1 | C23H18N4O2
